US04827011
3-(Hexadecyloxy)-1-(triphenylmethoxy)-2-butanol
A mixture of 27.5 g of 3-(hexadecyloxy)-1,2-butanediol, 34.79 g of trityl chloride and 125 ml of pyridine was allowed to stand 48 hours and then poured into water. A mixture of ether-petroleum ether was added, followed by dilute hydrochloric acid. The organic layer was separated, washed with dilute hydrochloric acid, then brine, dried and the solvent removed. The residue was mixed with petroleum ether and allowed to stand several days. After filtration, the filtrate was evaporated, giving 46.6 g of the desired compound as an oil, which was used in Example 9 without further purification.

reactant | 3-(hexadecyloxy)-1,2-butanediol | 27.5 g | C(CCCCCCCCCCCCCCC)OC(C(CO)O)C | C20H42O3
reactant | trityl chloride | 34.79 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-(Hexadecyloxy)-1-(triphenylmethoxy)-2-butanol | 46.6 g | C(CCCCCCCCCCCCCCC)OC(C(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C39H56O3
